US06288096B1
55 g (0.305 mole) 2-(4-methylcarbonyloxyphenyl)-1-ethanol and 34.4 g (0.341 mole) triethylamine in 300 ml dichloromethane were cooled on an ice bath. 38.5 g (0.336 mole) methanesulfonyl chloride was slowly added. The ice bath was removed and the mixture was stirred for 3 hours at room temperature. Water was added and the phases were separated. The organic phase was washed with saturated sodium hydrogen bicarbonate and brine, dried (magnesium sulfate), filtered and evaporated in vacuo to give 76.6 g (yield 97%) of 4-(methylcarbonyloxy)phenethyl methanesulfonate.

reactant | 2-(4-methylcarbonyloxyphenyl)-1-ethanol | 0.305 mole, 55 g | CC(=O)OC1=CC=C(C=C1)CCO | C10H12O3
reactant | triethylamine | 0.341 mole, 34.4 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.336 mole, 38.5 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 4-(methylcarbonyloxy)phenethyl methanesulfonate | 76.6 g, yield 97% | CS(=O)(=O)OCCC1=CC=C(C=C1)OC(=O)C | C11H14O5S
